US03996277
4-Methylthio-2-trifluoromethylaniline
2-Nitro-5-methylthiobenzotrifluoride (190 g, 0.85 mole) in ethanol (1 l.) is reduced over Raney nickel at about 45 psi of hydrogen gas. After hydrogen uptake is complete the catalyst is deactivated with elemental sulfur, the mixture is filtered, and the filtrate evaporated under reduced pressure to afford the desired product as an oil. IR 2.9 μ (strong NH band).

reactant | 2-Nitro-5-methylthiobenzotrifluoride | 0.85 mole, 190 g | [N+](=O)([O-])C1=C(C=C(C=C1)SC)C(F)(F)F | C8H6F3NO2S
reactant | hydrogen | [H][H] | H2
reactant | sulfur | [S] | S
solvent | ethanol | 1 l | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 4-Methylthio-2-trifluoromethylaniline | CSC1=CC(=C(N)C=C1)C(F)(F)F | C8H8F3NS
